### PR TITLE
feat(Algebra): definition of depth

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR, we defined the depth of two modules as the minimal order of nonvanishing `Ext` and the `I-depth` for ideal `I` and some basic properties. Including the equivalence of the two in the condition of rees theorem.

---

- [x] depends on: #26212
- [x] depends on: #32966

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Thmoas-Guan** [comment]
This PR is originally from #24921

File: Mathlib/RingTheory/Depth/Basic.lean
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean:1]: Please add some math references for this file.

Comment (jjdishere) [reply Mathlib/RingTheory/Depth/Basic.lean:1]: I believe some of these definitions have different notations (e.g. grade(I,M)). Could you please add stacks project tag to Ideal.depth to make it clearer?

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,409 @@
...
+/-- The depth of a `R`-module `M` with respect to an ideal `I`,
+defined as `moduleDepth (R⧸ I, M)`. -/
+noncomputable def Ideal.depth (I : Ideal R) (M : ModuleCat.{v} R) : ℕ∞ :=
+  moduleDepth (ModuleCat.of R (Shrink.{v} (R ⧸ I))) M
+
+/-- For a local ring `R`, the depth of a `R`-module with respect to the maximal ideal. -/
+noncomputable def IsLocalRing.depth [IsLocalRing R] (M : ModuleCat.{v} R) : ℕ∞ :=
+  (IsLocalRing.maximalIdeal R).depth M
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
```

the code compiles without this line.

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,409 @@
...
+    simp only [Set.mem_ofPred_eq, Nat.cast_lt, Nat.lt_find_iff]
+    intro i hi
+    exact not_nontrivial_iff_subsingleton.mp (hi i (le_refl i))
+
+lemma moduleDepth_eq_top_iff (N M : ModuleCat.{v} R) :
+    moduleDepth N M = ⊤ ↔ ∀ i, Subsingleton (Ext N M i) := by
+  refine ⟨fun h ↦ ?_, fun h ↦ csSup_eq_top_of_top_mem (fun i _ ↦ h i)⟩
+  by_contra! exist
+  rw [moduleDepth_eq_find N M exist] at h
+  simp at h
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
  simp [moduleDepth_eq_find N M exist] at h
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,409 @@
...
+  · simp only [moduleDepth, sSup_le_iff, Set.mem_ofPred_eq]
+    intro n hn
+    by_contra gt
+    absurd Nat.find_spec h
+    exact not_nontrivial_iff_subsingleton.mpr (hn (Nat.find h) (not_le.mp gt))
+  · simp only [moduleDepth]
+    apply le_sSup
+    simp only [Set.mem_ofPred_eq, Nat.cast_lt, Nat.lt_find_iff]
+    intro i hi
+    exact not_nontrivial_iff_subsingleton.mp (hi i (le_refl i))
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
    simpa using fun i hi ↦ not_nontrivial_iff_subsingleton.mp (hi i (le_refl i))
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,409 @@
...
+    (M : ModuleCat.{v} R) (sub : Subsingleton M) : IsLocalRing.depth M = ⊤ :=
+  Ideal.depth_eq_top_of_subsingleton _ M sub
+
+lemma moduleDepth_lt_top_iff (N M : ModuleCat.{v} R) :
+    moduleDepth N M < ⊤ ↔ ∃ n, Nontrivial (Ext N M n) := by
+  convert (moduleDepth_eq_top_iff N M).not
+  · exact lt_top_iff_ne_top
+  · simp [not_subsingleton_iff_nontrivial]
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,409 @@
...
+    moduleDepth N M = 0 ↔ Nontrivial (N →ₗ[R] M) := by
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · simp only [moduleDepth] at h
+    have : 1 ∉ {n : ℕ∞ | ∀ (i : ℕ), i < n → Subsingleton (Ext N M i)} := by
+      by_contra mem
+      absurd le_sSup mem
+      simp [h]
+    simp only [Set.mem_ofPred_eq, Nat.cast_lt_one, forall_eq,
+      not_subsingleton_iff_nontrivial, Ext.addEquiv₀.nontrivial_congr] at this
+    exact (ModuleCat.homLinearEquiv (S := R)).nontrivial_congr.mp this
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
    simpa [not_subsingleton_iff_nontrivial, Ext.addEquiv₀.nontrivial_congr,
      (ModuleCat.homLinearEquiv (S := R)).nontrivial_congr] using this
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,409 @@
...
+
+lemma Ideal.depth_eq_of_iso (I : Ideal R) {M M' : ModuleCat.{v} R} (e : M ≅ M') :
+    I.depth M = I.depth M' :=
+  moduleDepth_eq_of_iso_snd (ModuleCat.of R (Shrink.{v, u} (R ⧸ I))) e
+
+lemma IsLocalRing.depth_eq_of_iso [IsLocalRing R] {M M' : ModuleCat.{v} R} (e : M ≅ M') :
+    IsLocalRing.depth M = IsLocalRing.depth M' :=
+  (maximalIdeal R).depth_eq_of_iso e
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,409 @@
...
+  have hi1' : (i + 1 : ℕ) < moduleDepth N S.X₁ := by simpa using lt_tsub_iff_right.mp hi1
+  have zero2 : IsZero (AddCommGrpCat.of (Ext N S.X₂ i)) :=
+    AddCommGrpCat.isZero_of_iff_subsingleton.mpr (ext_subsingleton_of_lt_moduleDepth hi2)
+  have zero1 : IsZero (AddCommGrpCat.of (Ext N S.X₁ (i + 1))) :=
+    AddCommGrpCat.isZero_of_iff_subsingleton.mpr (ext_subsingleton_of_lt_moduleDepth hi1')
+  exact AddCommGrpCat.subsingleton_of_isZero <| ShortComplex.Exact.isZero_of_both_zeros
+    (Ext.covariant_sequence_exact₃' N hS i (i + 1) rfl)
+    (zero2.eq_zero_of_src _) (zero1.eq_zero_of_tgt _)
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,409 @@
...
+    · have rees := ((exists_isRegular_tfae I n M smul_lt).out 1 2).mpr h
+      exact rees N Nntr Nfin (le_of_eq hsupp)
+  simp only [moduleDepth_eq_sup_nat, Ideal.depth]
+  congr
+  ext n
+  induction n with
+  | top => simp
+  | coe n => simpa using this n
+
+open Opposite in
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,409 @@
...
+  classical
+  refine ⟨fun h ↦ ?_, fun ⟨ntr, h⟩ ↦ ?_⟩
+  · have exist := (moduleDepth_lt_top_iff N M).mp (by simp [h])
+    simp only [moduleDepth_eq_find _ _ exist, Nat.cast_inj] at h
+    refine ⟨h ▸ Nat.find_spec exist, fun i hi ↦ ?_⟩
+    exact not_nontrivial_iff_subsingleton.mp (Nat.find_min exist (lt_of_lt_of_eq hi h.symm))
+  · have exist : ∃ n, Nontrivial (Ext N M n) := by use n
+    simp only [moduleDepth_eq_find _ _ exist, Nat.cast_inj, Nat.find_eq_iff, ntr, true_and]
+    intro i hi
+    exact not_nontrivial_iff_subsingleton.mpr (h i hi)
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
    simpa [moduleDepth_eq_find _ _ exist, Nat.find_eq_iff, ntr] using
      fun i hi ↦ not_nontrivial_iff_subsingleton.mpr (h i hi)
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,409 @@
...
+
+lemma moduleDepth_eq_sup_nat (N M : ModuleCat.{v} R) : moduleDepth N M =
+    sSup {n : ℕ∞ | n < ⊤ ∧ ∀ i : ℕ, i < n → Subsingleton (Ext N M i)} := by
+  simp only [moduleDepth]
+  by_cases h : ⊤ ∈ {n : ℕ∞ | ∀ (i : ℕ), i < n → Subsingleton (Ext N M i)}
+  · rw [csSup_eq_top_of_top_mem h, eq_comm, ENat.eq_top_iff_forall_ge]
+    intro m
+    apply le_sSup
+    simp only [Set.mem_ofPred_eq, ENat.natCast_lt_top, forall_const] at h
+    simpa using fun i _ ↦ h i
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
    refine fun m ↦ le_sSup ?_
    simpa using fun i _ ↦ h i
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,409 @@
...
+  · have exist := (moduleDepth_lt_top_iff N M).mp (by simp [h])
+    simp only [moduleDepth_eq_find _ _ exist, Nat.cast_inj] at h
+    refine ⟨h ▸ Nat.find_spec exist, fun i hi ↦ ?_⟩
+    exact not_nontrivial_iff_subsingleton.mp (Nat.find_min exist (lt_of_lt_of_eq hi h.symm))
+  · have exist : ∃ n, Nontrivial (Ext N M n) := by use n
+    simp only [moduleDepth_eq_find _ _ exist, Nat.cast_inj, Nat.find_eq_iff, ntr, true_and]
+    intro i hi
+    exact not_nontrivial_iff_subsingleton.mpr (h i hi)
+
+lemma ext_subsingleton_of_lt_moduleDepth {N M : ModuleCat.{v} R} {i : ℕ}
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
lemma subsingleton_ext_of_lt_moduleDepth {N M : ModuleCat.{v} R} {i : ℕ}
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,409 @@
...
+    (lt : i < moduleDepth N M) : Subsingleton (Ext N M i) := by
+  by_cases lttop : moduleDepth N M < ⊤
+  · have : Nonempty {n : ℕ∞ | ∀ (i : ℕ), i < n → Subsingleton (Ext N M i)} := ⟨⟨(0 : ℕ∞), by simp⟩⟩
+    exact ENat.sSup_mem_of_nonempty_of_lt_top lttop i lt
+  · simp only [not_lt, top_le_iff, moduleDepth_eq_top_iff] at lttop
+    exact lttop i
+
+lemma moduleDepth_eq_sup_nat (N M : ModuleCat.{v} R) : moduleDepth N M =
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
lemma moduleDepth_eq_sSup_lt_top (N M : ModuleCat.{v} R) : moduleDepth N M = (N M : ModuleCat.{v} R) : moduleDepth N M =
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,409 @@
...
+  · rw [csSup_eq_top_of_top_mem h, eq_comm, ENat.eq_top_iff_forall_ge]
+    intro m
+    apply le_sSup
+    simp only [Set.mem_ofPred_eq, ENat.natCast_lt_top, forall_const] at h
+    simpa using fun i _ ↦ h i
+  · congr
+    ext n
+    exact ⟨fun mem ↦ ⟨top_notMem_iff.mp h n mem, mem⟩, fun mem ↦ mem.2⟩
+
+lemma moduleDepth_eq_depth_of_supp_eq [IsNoetherianRing R] (I : Ideal R)
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
lemma moduleDepth_eq_depth_of_support_eq [IsNoetherianRing R] (I : Ideal R)
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,409 @@
...
+lemma Ideal.depth_eq_of_iso (I : Ideal R) {M M' : ModuleCat.{v} R} (e : M ≅ M') :
+    I.depth M = I.depth M' :=
+  moduleDepth_eq_of_iso_snd (ModuleCat.of R (Shrink.{v, u} (R ⧸ I))) e
+
+lemma IsLocalRing.depth_eq_of_iso [IsLocalRing R] {M M' : ModuleCat.{v} R} (e : M ≅ M') :
+    IsLocalRing.depth M = IsLocalRing.depth M' :=
+  (maximalIdeal R).depth_eq_of_iso e
+
+set_option backward.isDefEq.respectTransparency false in
+lemma moduleDepth_eq_zero_of_hom_nontrivial (N M : ModuleCat.{v} R) :
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
lemma moduleDepth_eq_zero_of_nontrivial_linearMap (N M : ModuleCat.{v} R) :
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,409 @@
...
+    simp only [Set.mem_ofPred_eq, Nat.cast_lt_one, forall_eq,
+      not_subsingleton_iff_nontrivial, Ext.addEquiv₀.nontrivial_congr] at this
+    exact (ModuleCat.homLinearEquiv (S := R)).nontrivial_congr.mp this
+  · apply nonpos_iff_eq_zero.mp (sSup_le (fun n mem ↦ ?_))
+    by_contra pos
+    absurd mem 0 (lt_of_not_ge pos)
+    simpa [not_subsingleton_iff_nontrivial, Ext.addEquiv₀.nontrivial_congr]
+      using (ModuleCat.homLinearEquiv (S := R)).nontrivial_congr.mpr h
+
+lemma moduleDepth_ge_min_of_shortExact_snd_fst
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]: Please use le.

Why adding `_snd_fst`?

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,409 @@
...
+  intro i hi1 hi3
+  have zero1 : IsZero (AddCommGrpCat.of (Ext S.X₁ N i)) :=
+    AddCommGrpCat.isZero_of_iff_subsingleton.mpr (ext_subsingleton_of_lt_moduleDepth hi1)
+  have zero3 : IsZero (AddCommGrpCat.of (Ext S.X₃ N i)) :=
+    AddCommGrpCat.isZero_of_iff_subsingleton.mpr (ext_subsingleton_of_lt_moduleDepth hi3)
+  exact AddCommGrpCat.subsingleton_of_isZero <| ShortComplex.Exact.isZero_of_both_zeros
+    (Ext.contravariant_sequence_exact₂' hS N i)
+    (zero3.eq_zero_of_src _) (zero1.eq_zero_of_tgt _)
+
+lemma moduleDepth_ge_min_of_shortExact_fst_fst
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]: Please use le in this and the following declarations.

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,409 @@
...
+  have zero2 : IsZero (AddCommGrpCat.of (Ext N S.X₂ i)) :=
+    AddCommGrpCat.isZero_of_iff_subsingleton.mpr (ext_subsingleton_of_lt_moduleDepth hi2)
+  have zero1 : IsZero (AddCommGrpCat.of (Ext N S.X₁ (i + 1))) :=
+    AddCommGrpCat.isZero_of_iff_subsingleton.mpr (ext_subsingleton_of_lt_moduleDepth hi1')
+  exact AddCommGrpCat.subsingleton_of_isZero <| ShortComplex.Exact.isZero_of_both_zeros
+    (Ext.covariant_sequence_exact₃' N hS i (i + 1) rfl)
+    (zero2.eq_zero_of_src _) (zero1.eq_zero_of_tgt _)
+
+set_option backward.isDefEq.respectTransparency false in
+lemma moduleDepth_eq_sSup_length_regular [IsNoetherianRing R] (I : Ideal R)
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
lemma moduleDepth_eq_sSup_length_isRegular [IsNoetherianRing R] (I : Ideal R)
```

Comment (jjdishere) [reply Mathlib/RingTheory/Depth/Basic.lean]: Same for the following ones.

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,409 @@
...
+    (I : Ideal R) (netop : I ≠ ⊤) (M : ModuleCat.{v} R) [Module.Finite R M] [Nontrivial M] :
+    I.depth M ≤ IsLocalRing.depth M := by
+  rw [ideal_depth_eq_sSup_length_regular I netop, depth_eq_sSup_length_regular]
+  apply sSup_le (fun n hn ↦ le_sSup ?_)
+  rcases hn with ⟨rs, reg, mem, len⟩
+  have : ∀ r ∈ rs, r ∈ maximalIdeal R := fun r a ↦ (le_maximalIdeal netop) (mem r a)
+  use rs
+
+omit [Small.{v, u} R] in
+lemma Submodule.comap_lt_top_of_lt_range {M N : Type*} [AddCommGroup M] [Module R M]
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]: Please move this lemma to suitable place.

File: Mathlib/RingTheory/Depth/Basic.lean (hunk 15 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Depth/Basic.lean]: This means first place in depth, second one in short exact sequence.

File: Mathlib/RingTheory/Depth/Basic.lean
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Depth/Basic.lean:1]: But actually I am sorry to find that usual `grade` is actually `depth(M, R)` here, still not the same.

File: Mathlib/RingTheory/Depth/Basic.lean (hunk 18 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Depth/Basic.lean]: I think this is because I didn't under stand the usage correctly, I removed it and golfed the original usage.

File: Mathlib/RingTheory/Depth/Basic.lean
Comment (jjdishere) [reply Mathlib/RingTheory/Depth/Basic.lean:1]: Sorry I didn't give you a precise reference. I was talking about Bruns–Herzog's book, Definition 1.2.6. There they use grade(I,M) for Ideal.depth here. Can you reconfirm and add it in the head docstring?

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,401 @@
...
+    (M : ModuleCat.{v} R) (sub : Subsingleton M) : IsLocalRing.depth M = ⊤ :=
+  Ideal.depth_eq_top_of_subsingleton _ M sub
+
+lemma moduleDepth_lt_top_iff (N M : ModuleCat.{v} R) :
+    moduleDepth N M < ⊤ ↔ ∃ n, Nontrivial (Ext N M n) := by
+  convert (moduleDepth_eq_top_iff N M).not
+  · exact lt_top_iff_ne_top
+  · simp [not_subsingleton_iff_nontrivial]
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,401 @@
...
+    simpa using fun i hi ↦ not_nontrivial_iff_subsingleton.mp (hi i (le_refl i))
+
+lemma moduleDepth_eq_top_iff (N M : ModuleCat.{v} R) :
+    moduleDepth N M = ⊤ ↔ ∀ i, Subsingleton (Ext N M i) := by
+  refine ⟨fun h ↦ ?_, fun h ↦ csSup_eq_top_of_top_mem (fun i _ ↦ h i)⟩
+  by_contra! exist
+  simp [moduleDepth_eq_find N M exist] at h
+
+lemma Ideal.depth_eq_top_of_subsingleton (I : Ideal R)
+    (M : ModuleCat.{v} R) (sub : Subsingleton M) : I.depth M = ⊤ := by
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
    (M : ModuleCat.{v} R) [sub : Subsingleton M] : I.depth M = ⊤ := by
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 21]
```diff
@@ -0,0 +1,401 @@
...
+      simp [h]
+    simpa [not_subsingleton_iff_nontrivial, Ext.addEquiv₀.nontrivial_congr,
+      (ModuleCat.homLinearEquiv (S := R)).nontrivial_congr] using this
+  · apply nonpos_iff_eq_zero.mp (sSup_le (fun n mem ↦ ?_))
+    by_contra pos
+    absurd mem 0 (lt_of_not_ge pos)
+    simpa [not_subsingleton_iff_nontrivial, Ext.addEquiv₀.nontrivial_congr,
+      (ModuleCat.homLinearEquiv (S := R)).nontrivial_congr] using h
+
+lemma moduleDepth_min_le_of_shortExact_snd_fst
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]: The name seems somehow counter-intuitive to me.
How do you think `moduleDepth_min_fst_trd_le_snd` or `moduleDepth_min₁₃_le₂`?

Comment (jjdishere) [reply Mathlib/RingTheory/Depth/Basic.lean]: and `moduleDepth_min_le_of_shortExact_fst_snd`
can be modified to something like `moduleDepth_min_snd_trd_add_one_le_fst`

File: Mathlib/RingTheory/Depth/Basic.lean
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Depth/Basic.lean:1]: This is indeed `Ideal.depth`, mines grade is from Matsumura.

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,402 @@
...
+
+lemma Ideal.depth_eq_of_iso (I : Ideal R) {M M' : ModuleCat.{v} R} (e : M ≅ M') :
+    I.depth M = I.depth M' :=
+  moduleDepth_eq_of_iso_right (ModuleCat.of R (Shrink.{v, u} (R ⧸ I))) e
+
+lemma IsLocalRing.depth_eq_of_iso [IsLocalRing R] {M M' : ModuleCat.{v} R} (e : M ≅ M') :
+    IsLocalRing.depth M = IsLocalRing.depth M' :=
+  (maximalIdeal R).depth_eq_of_iso e
+
+lemma moduleDepth_eq_zero_of_nontrivial_linearMap (N M : ModuleCat.{v} R) :
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean]:
```suggestion
lemma moduleDepth_eq_zero_iff_nontrivial_linearMap (N M : ModuleCat.{v} R) :
```

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 23]
```diff
@@ -0,0 +1,402 @@
...
+  refine ⟨fun ⟨lt_top, h⟩ ↦ ?_, fun ⟨rs, reg, mem, len⟩ ↦ ?_⟩
+  · rcases ENat.ne_top_iff_exists.mp lt_top.ne with ⟨n, hn⟩
+    simp only [← hn, Nat.cast_lt, Nat.cast_inj] at h ⊢
+    rcases ((exists_isRegular_tfae I n M smul_lt).out 3 4).mp (by use N) with ⟨rs, len, mem, reg⟩
+    use rs
+  · simp only [← len, ENat.natCast_lt_top, Nat.cast_lt, true_and]
+    have rees := ((exists_isRegular_tfae I rs.length M smul_lt).out 4 1).mp (by use rs)
+    exact rees N ‹_› ‹_› (le_of_eq hsupp)
+
+@[stacks 00LW]
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean:320]: This tag is inaccurate

**Comment by jjdishere** [comment]
Other parts LGTM. Thanks!

File: Mathlib/RingTheory/Depth/Basic.lean (hunk 23 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Depth/Basic.lean:320]: The one inaccurate is actually the definition of depth, I'll explian a bit more.

File: Mathlib/RingTheory/Depth/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,403 @@
...
+/-- The depth between two `R`-modules defined as the minimal nontrivial `Ext` between them. -/
+noncomputable def moduleDepth (N M : ModuleCat.{v} R) : ℕ∞ :=
+  sSup {n : ℕ∞ | ∀ i : ℕ, i < n → Subsingleton (Ext N M i)}
+
+/-- The depth of a `R`-module `M` with respect to an ideal `I`,
+defined as `moduleDepth (R⧸ I, M)`. -/
+@[stacks 00LI "Here we define depth using vanishing of Ext groups, it coincides with the
+regular sequence characterization in the case R is Noetherian and IM ≠ M."]
+noncomputable def Ideal.depth (I : Ideal R) (M : ModuleCat.{v} R) : ℕ∞ :=
+  moduleDepth (ModuleCat.of R (Shrink.{v} (R ⧸ I))) M
```
Comment (jjdishere) [inline Mathlib/RingTheory/Depth/Basic.lean:66]: A historical comment:

In Matsumura, depth is only defined for the case when IM ≠ M and R is noetherian, where the definition here aligns with the definition using regular sequence.

Comment (jjdishere) [reply Mathlib/RingTheory/Depth/Basic.lean:66]: Could you please try to describe which definition is used more often in (different part of) downstream applications?

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Depth/Basic.lean:66]: The current situation is that in the theorems/lemmas directly about `depth`, the `Ext` characterization is used most of the time, as to the Cohen--Macaulay parts, regular sequence is used most of the time.
But since we still don't have much about CM, I am on the fence now.
